US07521455B2
(1) Manufacture of 1-[3-(4-nitrophenoxy)propyl]piperidine
3-piperidin-1-yl-propan-1-ol (3.66 g, 25.6 mmol), 4-nitrophenol (2.96 g, 21.3 mmol) and triphenylphosphine (6.71 g, 25.6 mmol) were dissolved in dry tetrahydrofuran in a current of nitrogen, and cooled on the ice bath. Diisopropyl azodicarboxylate (5.0 mL, 25.6 mmol) was dripped in, and stirred at room temperature for 40 hours. The reaction liquid was concentrated, diethyl ether was added, and the solid precipitate was filtered off. The filtrate was concentrated, the product purified by silica gel column chromatography (chloroform/methanol=100/0-95/5), and the target substance (3.49 g, 62%) was thus obtained as a light yellow oily residue.

reactant | 3-piperidin-1-yl-propan-1-ol | 25.6 mmol, 3.66 g | N1(CCCCC1)CCCO | C8H17NO
reactant | 4-nitrophenol | 21.3 mmol, 2.96 g | [N+](=O)([O-])C1=CC=C(C=C1)O | C6H5NO3
reactant | triphenylphosphine | 25.6 mmol, 6.71 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | Diisopropyl azodicarboxylate | 25.6 mmol, 5.0 mL | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 1-[3-(4-nitrophenoxy)propyl]piperidine | [N+](=O)([O-])C1=CC=C(OCCCN2CCCCC2)C=C1 | C14H20N2O3
